US07227038B2
a) 2-Chloro-5-(2-propenyl)-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide
2-Chloro-5-iodo-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide (prepared as described in WO 99/29661) (7.74 g), tri-n-butylallyltin (5.99 g), dichlorobis(triphenylphosphine)palladium(II) (1.24 g), triphenylphosphine (1.86 g), lithium chloride (6.11 g) and N,N-dimethylformamide. (260 mL) were heated together under nitrogen from 110° C. to 130° C. over 20 minutes, and then at 130° C. for 25 minutes. The mixture was then cooled, poured into brine (500 mL), extracted into ethyl acetate (3×250 mL), dried over anhydrous magnesium sulfate, filtered and concentrated to give an oil. The crude mixture was purified by column chromatography eluting with 9:1 isohexane/ethyl acetate to give the sub-titled compound (5.23 g).

reactant | 2-Chloro-5-iodo-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide | 7.74 g | ClC1=C(C(=O)NCC23CC4CC(CC(C2)C4)C3)C=C(C=C1)I | C18H21ClINO
reactant | tri-n-butylallyltin | 5.99 g | C(CCC)C(C=C(CCCC)CCCC)[Sn]
reactant | triphenylphosphine | 1.86 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | lithium chloride | 6.11 g | [Cl-].[Li+]
solvent | brine | 500 mL | [Cl-].[Na+].O
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 1.24 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2-Chloro-5-(2-propenyl)-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide | 5.23 g | ClC1=C(C(=O)NCC23CC4CC(CC(C2)C4)C3)C=C(C=C1)CC=C | C21H26ClNO
